US07465726B2
4-{4-[3-Chloro-5-(4-methylpiperazin-1-yl)-phenyl-amino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (88.0 mg, 0.263 mmol), 3-chloro-5-(4-methylpiperazin-1-yl)-phenylamine (71.2 mg, 0.316 mmol), trifluoroacetic acid (203 μL, 2.63 mmol), and DMF (2 mL) was stirred in a sealed tube at 70° C. for 18 h. The mixture was concentrated in vacuo, sodium bicarbonate (221 mg, 2.63 mmol), di-tert-butyldicarbonate (86.1 mg, 0.394 mmol), and DMF (2 mL) were added to the residue, and the resulting mixture was stirred at rt under N2 for 16 h. After that time, the mixture was filtered, and the filtrate was concentrated in vacuo and submitted for MS-directed purification. One obtained the title compound as light-brown solid. 1H NMR (CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.57 (brs, 2H), 2.86 (s, 3H), 3.29 (brs, 4H), 3.46 (brs, 4H), 3.67 (brs, 2H), 4.13 (brs, 2H), 6.29 (brs, 1H), 6.68 (s, 1H), 6.74 (s 1H), 7.44 (s, 1H), 7.47 (s, 1H), 8.28 (s, 1H). M (ES+): m/z 523.99/525.95(100/40) [MH+]. HPLC: tR (polar—5 mins)=2.28 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.263 mmol, 88.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 3-chloro-5-(4-methylpiperazin-1-yl)-phenylamine | 0.316 mmol, 71.2 mg | ClC=1C=C(C=C(C1)N1CCN(CC1)C)N | C11H16ClN3
reactant | trifluoroacetic acid | 2.63 mmol, 203 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 2.63 mmol, 221 mg | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 0.394 mmol, 86.1 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{4-[3-Chloro-5-(4-methylpiperazin-1-yl)-phenyl-amino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC(=CC(=C2)N2CCN(CC2)C)Cl)N1 | C27H34ClN7O2
